US05308853
A quantity of 24.4 g (0.30 mole) of potassium cyanate is added portionwise, at room temperature, to a stirred solution of 31.80 g (0.20 mole) of ethyl N-butylglycinate in 220 mL (0.22 mole) of 1N hydrochloric acid. The solution is warmed to ca. 90° C. (at ca. 50° C. an oil separates). After 10 minutes at 90° C., concentrated hydrochloric acid (250 mL) is cautiously added over 2 minutes and the resulting solution is heated at 90°-100° C. for 1/2 hour. The solution is concentrated at reduced pressure to dryness. The last amounts of water are chased by addition and removal of 3×100 mL of absolute ethanol. The residue is extracted with 400 mL 50% ethanolmethylene chloride. The inorganics are filtered and the filtrate is concentrated to dryness. Trituration of the residue with 100 mL of water and filtration gives pure 1-butylhydantoin in 68% yield; mp 90°-92° C.; MS (EI) 156.1 (M+).

reactant | potassium cyanate | 0.30 mole, 24.4 g | [O-]C#N.[K+]
reactant | ethyl N-butylglycinate | 0.20 mole, 31.80 g | C(CCC)NCC(=O)OCC | C8H17NO2
solvent | hydrochloric acid | 250 mL | Cl | ClH
solvent | hydrochloric acid | 0.22 mole, 1N, 220 mL | Cl | ClH
product | 1-butylhydantoin | 68% yield | C(CCC)N1C(=O)NC(=O)C1 | C7H12N2O2
